US07842701B2
7-amino-2-(2-chloro-5-methoxyphenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one
A mixture of 1-(2-chloro-5-methoxyphenyl)-3-(2,4-dinitrophenyl)-1H-pyrazole-4-carboxylic acid (3.20 g), 90% calcium chloride (200 mg) and 90% ethanol (150 ml) was stirred at 90° C. for 10 minutes, reduced iron (5.12 g) was added thereto, and then was stirred at 90° C. for 4 hours. The reaction mixture was cooled, filtered through Celite, the Celite layer was washed ethyl acetate. The filtrate and washings were combined, added water thereto and then extracted with ethyl acetate. The extract was washed with water and brine, dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain the target compound (1.20 g).

reactant | 1-(2-chloro-5-methoxyphenyl)-3-(2,4-dinitrophenyl)-1H-pyrazole-4-carboxylic acid | 3.20 g | ClC1=C(C=C(C=C1)OC)N1N=C(C(=C1)C(=O)O)C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C17H11ClN4O7
reactant | calcium chloride | 200 mg | [Cl-].[Ca+2].[Cl-]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 7-amino-2-(2-chloro-5-methoxyphenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 1.20 g | NC=1C=CC=2C=3C(C(NC2C1)=O)=CN(N3)C3=C(C=CC(=C3)OC)Cl | C17H13ClN4O2
